US03989816
Alternatively, equimolar amounts of 6-hexanolactone and n-octylamine were heated at 190° for 20 hours. In this time, water was distilled off slowly. The residue was distilled to obtain 1-octyl-azacycloheptan-2-one.

reactant | 6-hexanolactone | C1(CCCCCO1)=O | C6H10O2
reactant | n-octylamine | C(CCCCCCC)N | C8H19N
product | 1-octyl-azacycloheptan-2-one | C(CCCCCCC)N1C(CCCCC1)=O | C14H27NO
